US04058550
2-Propenyl 4-(n-hexadecylamino)benzoate
A solution of 7.66 g. of sodium 4-(n-hexadecylamino)benzoate and 12.1 g. of allyl bromide in 100 ml. of dry hexamethylphosphoramide is added to a reaction flask. After 6 hours the solution is poured into 100 ml. of water and the solid collected and recrystallized from 50 ml. of acetonitrile. This material is recrystallized from hexanol to yield the title compound, m.p. 81°-83° C.

reactant | sodium 4-(n-hexadecylamino)benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)[O-])C=C1.[Na+]
reactant | allyl bromide | C(C=C)Br | C3H5Br
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 2-Propenyl 4-(n-hexadecylamino)benzoate | C(CCCCCCCCCCCCCCC)NC1=CC=C(C(=O)OCC=C)C=C1 | C26H43NO2
